US06054528
Preparation of 1,4-bis(1,3,4-oxadiazolin-5-one-2-yl) butane
A solution of 200 g of phosgene in 1.6 kg of phenol was introduced at 20° C. into a 4-liter phosgenation apparatus, and 174 g of adipic acid dihydrazide were added thereto. The mixture was heated to 85° C. within one hour, with stirring; gas evolved above a reaction temperature of 45° C. Phosgene was then introduced into the reaction mixture at 85° C. over 5 hours (approx. 30 g per hour), with stirring. The solution was then purged with nitrogen at 85 to 90° C. for 30 minutes, and the major part of the phenol was finally removed by vacuum distillation at from 50 to 60° C. The remaining product was dissolved in 1 liter of toluene at 60° C. and precipitated by cooling to 20° C. The precipitate was suction filtered, washed with toluene and dried under vacuum.

reactant | phosgene | 200 g | C(=O)(Cl)Cl | CCl2O
reactant | adipic acid dihydrazide | 174 g | C(CCCCC(=O)NN)(=O)NN | C6H14N4O2
reactant | phenol | 1.6 kg | C1(=CC=CC=C1)O | C6H6O
product | 1,4-bis(1,3,4-oxadiazolin-5-one-2-yl) butane | O1C(=NNC1=O)CCCCC=1OC(NN1)=O | C8H10N4O4
